US05939439
Step 2: 3,5,-Dibromo-5'-methyl-[1,2']bipyridinyl-2-one
3,5,-Dibromo-2-pyridinol (1.47 g, 5.81 mmol), 2-bromo-5-methylpyridine (1.00 g, 5.81 mmol), copper (0.008 g, 0.116 mmol) and K2CO3 (0.883 g, 6.39 mmol) were heated at 180° C. for 18 hrs. The brown reaction mixture was cooled, diluted with EtOAc and stirred with saturated NaHCO3 for 1 hr. The aqueous layer was extracted with EtOAc (2×) and the combined organic extracts were washed with brine, dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed (silica gel, EtOAc: CH2Cl2 10:90 to 30:70 gradient elution) to afford the title compound as a white solid.

reactant | 3,5,-Dibromo-2-pyridinol | 5.81 mmol, 1.47 g | BrC=1C(=NC=C(C1)Br)O | C5H3Br2NO
reactant | 2-bromo-5-methylpyridine | 5.81 mmol, 1.00 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | K2CO3 | 6.39 mmol, 0.883 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper | 0.116 mmol, 0.008 g | [Cu] | Cu
product | 3,5,-Dibromo-5'-methyl-[1,2']bipyridinyl-2-one | BrC=1C(N(C=C(C1)Br)C1=NC=C(C=C1)C)=O | C11H8Br2N2O
